US07838674B2
7-Aza-dispiro[2.0.2.4]decane-8,10-dione
8,10-Dioxo-7-aza-dispiro[2.0.2.4]decane-9-carboxylic acid methyl ester (628 mg; 2.2 mmol) in acetonitrile/water (9 ml/0.9 ml) is refluxed for 50 minutes, cooled to room temperature, filtered and the filtrate evaporated to deliver the title compound as colorless solid (386 mg; 98%).

reactant | 8,10-Dioxo-7-aza-dispiro[2.0.2.4]decane-9-carboxylic acid methyl ester | 2.2 mmol, 628 mg | COC(=O)C1C(NC2(C3(CC3)C1=O)CC2)=O | C11H13NO4
solvent | acetonitrile water | 9 ml | C(C)#N.O
product | 7-Aza-dispiro[2.0.2.4]decane-8,10-dione | C1CC12C1(CC1)NC(CC2=O)=O | C9H11NO2
